US09233979B2
A 5 mL microwave vial was charged with cesium carbonate (71.7 mg, 0.220 mmol), (6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate (40 mg, 0.085 mmol), (R)-1-(1-(4-fluorophenyl)ethyl)urea (23.3 mg, 0.128 mmol), 2-(dicyclohexylphosphino)3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl (3.21 mg, 5.97 μmol) and BrettPhos-G3-Pd (5.41 mg, 5.97 μmol). Dioxane (1 ml) was added, the vial was flushed with argon, capped and the contents heated to 100° C. with stirring for 16 h. The reaction mixture was diluted with DCM (2 ml), MP-TMT (119 mg, 0.119 mmol) added and the contents heated to 65° C. for 4 h with shaking. The reaction mixture was filtered, washing through with DCM (2 mL) and concentrated. The resulting residue was re-dissolved in TFA (1 mL) and stirred at room temperature for 30 minutes. Triethylsilane (0.014 ml, 0.085 mmol) was added drop wise and the reaction mixture was stirred for an additional 5 minutes. The volatiles were removed in vacuo, the resulting residue was re-dissolved in DMSO (1.5 mL) and submitted for purification by mass-triggered HPLC to afford (R)-methyl (6-(3-(1-(4-fluorophenyl)ethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate. TFA (5.4 mg, 0.011 mmol, 13.1% yield) as a white solid. MS ESI calc'd. For C17H18FN6O3 [M+H]+ 373. found 373. 1H NMR (ppm, 600 MHz, DMSO-d6): δ 10.39 (s, 1H); 9.26 (s, 1H); 8.94 (s, 1H); 7.76 (s, 1H); 7.43 (s, 1H); 7.35 (dd, J=8.4, 5.5 Hz, 2H); 7.13 (t, J=8.8 Hz, 2H); 4.84 (t, J=7.2 Hz, 1H); 3.68 (s, 3H); 1.37 (d, J=7.0 Hz, 3H).

reactant | cesium carbonate | 0.220 mmol, 71.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | 0.085 mmol, 40 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC([O-])=O
reactant | (R)-1-(1-(4-fluorophenyl)ethyl)urea | 0.128 mmol, 23.3 mg | FC1=CC=C(C=C1)[C@@H](C)NC(=O)N | C9H11FN2O
reactant | 2-(dicyclohexylphosphino)3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl | 5.97 μmol, 3.21 mg | C1(CCCCC1)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C35H53O2P
reactant | Triethylsilane | 0.085 mmol, 0.014 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | Dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (R)-methyl (6-(3-(1-(4-fluorophenyl)ethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | FC1=CC=C(C=C1)[C@@H](C)NC(NC1=CC2=C(C=N1)C(=NN2)NC(OC)=O)=O | C17H17FN6O3
